US07339059B2
5-Bromo-1-benzofuran-2-carboxylic Acid
To a solution of 5-bromosalicyaldehyde (20 g, 98.5 mmol) and diethyl bromomalonate (95%, 37 g, 148 mmol) in butanone (200 mL) potassium carbonate (27.5 g, 197 mmol) was added. The mixture was refluxed for 4 h and allowed to attain room temperature Potassium carbonate was filtered off and the solvent was removed in vacuo. The residue was participated between CH2Cl2 and 1M aqueous H2SO4. The organic layer was dried and concentrated to give an oil. The oil was treated with 10% KOA/EtOH (125 mL) and refluxed for 45 minutes. The reaction mixture was concentrated and 2M aqueous H2SO4 (350 mL) was added and the mixture was warmed to 90° C. After cooling to room temperature, the product precipitated and was re-crystallised in EtOH/H2O (4:1) (yield: 6.6 g, 28%).

reactant | diethyl bromomalonate | 148 mmol, 37 g | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
reactant | butanone | 197 mmol, 200 mL, 27.5 g | CC(CC)=O | C4H8O
reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | EtOH | 125 mL | CCO | C2H6O
product | 5-Bromo-1-benzofuran-2-carboxylic Acid | BrC=1C=CC2=C(C=C(O2)C(=O)O)C1 | C9H5BrO3
